US06930120B2
2-Methyl-3-(4-{2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-phenyl)-2-(4-trifluoromethyl-phenoxy)-propionic acid
The title compound was prepared from 3-(4-hydroxyphenyl)-2-methyl-2-(4-trifluoromethyl-phenoxy)-propionic acid ethyl ester and toluene-4-sulfonic acid 2-[5-methyl-2-(1-methylcyclohexyl)oxazol-4-yl)-ethyl ester using the procedure of Example 50. 1H NMR (400 MHz, CDCl3) δ 7.49 (d, 2H, J=8.60 Hz), 7.15 (d, 2H, J=8.60 Hz), 6.94 (d, 2H, J=8.60 Hz), 6.78 (d, 2H, J=8.60 Hz), 4.13 (t, 2H, J=6.25 Hz), 3.25 (d, 1H, J=14.08 Hz), 3.15 (d, 1H, J 14.08 Hz), 2.99 (t, 2H, J=6.25 Hz), 2.33 (s, 3H), 2.14-2.06 (m, 2H), 1.61-1.41 (m, 8H), 1.49 (s, 3H), 1.30 (s, 3H); MS (ES+) calcd for C30H35NO5F3: Found m/e 546.3 (M+1, 100%).

reactant | 3-(4-hydroxyphenyl)-2-methyl-2-(4-trifluoromethyl-phenoxy)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(OC1=CC=C(C=C1)C(F)(F)F)C)=O | C19H19F3O4
reactant | toluene-4-sulfonic acid 2-[5-methyl-2-(1-methylcyclohexyl)oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C1(CCCCC1)C)CCOS(=O)(=O)C1=CC=C(C=C1)C | C20H27NO4S
product | 2-Methyl-3-(4-{2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-phenyl)-2-(4-trifluoromethyl-phenoxy)-propionic acid | CC(C(=O)O)(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1(CCCCC1)C)OC1=CC=C(C=C1)C(F)(F)F | C30H34F3NO5
